US08877782B2
N-(2-Hydroxy-ethyl)-6-(3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 358 g, 6-(3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinic acid (100 mg, 0.34 mmol) was converted using ethanolamine instead of 4-aminotetrahydropyran to the title compound (82 mg, 72%) which was obtained as a white solid. MS: m/e=341.0 [M+H]+.

reactant | 6-(3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.34 mmol, 100 mg | N1=C(C=CC=C1)C1=NOC=C1COC1=NC=C(C(=O)O)C=C1 | C15H11N3O4
reactant | ethanolamine | C(O)CN | C2H7NO
product | N-(2-Hydroxy-ethyl)-6-(3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinamide | 82 mg, 72% | OCCNC(C1=CN=C(C=C1)OCC=1C(=NOC1)C1=NC=CC=C1)=O | C17H16N4O4
